US04663319
Ethyl 1-benzyl-5-(1,3-dithiol-2-ylidene)-4.6-dioxopiperidine-3-carboxylate (2.70 g) and ethyl iodide (0.71 ml) are treated in the same manner as described in Example 25-(1), whereby ethyl 1-benzyl-5-(1,3-dithiol-2-ylidene)-3-ethyl-4,6-dioxopiperidine-3-carboxylate (2.30 g, 79.3%) is obtained as pale yellow oil.

reactant | Ethyl 1-benzyl-5-(1,3-dithiol-2-ylidene)-4.6-dioxopiperidine-3-carboxylate | 2.70 g | C(C1=CC=CC=C1)N1CC(C(C(C1=O)=C1SC=CS1)=O)C(=O)OCC | C18H17NO4S2
reactant | ethyl iodide | 0.71 ml | C(C)I | C2H5I
product | ethyl 1-benzyl-5-(1,3-dithiol-2-ylidene)-3-ethyl-4,6-dioxopiperidine-3-carboxylate | 2.30 g, 79.3% | C(C1=CC=CC=C1)N1CC(C(C(C1=O)=C1SC=CS1)=O)(C(=O)OCC)CC | C20H21NO4S2
